US06803375B1
2.00 g (7.2 mmol) of trityl chloride was treated with 0.51 g (7.2 mmol) pyrrolidine and 0.72 g (7.2 mmol) triethylamine according to General Method C in Example 6 to give 1.86 g (82%) of 1-tritylpyrrolidine (T7), mp: 126° C.

reactant | trityl chloride | 7.2 mmol, 2.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | pyrrolidine | 7.2 mmol, 0.51 g | N1CCCC1 | C4H9N
reactant | triethylamine | 7.2 mmol, 0.72 g | C(C)N(CC)CC | C6H15N
product | 1-tritylpyrrolidine | 1.86 g, 82% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCCC1 | C23H23N
